US08202858B2
Propane-1-sulfonic Acid 4-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-fluoro-benzylamide
1-Propanesulfonyl chloride (0.016 ml, 0.14 mmol) was added to a solution of (4-aminomethyl-3-fluoro-phenyl)-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone hydrochloride from Example E98.2 (50 mg, 0.12 mmol) in dichloromethane (2 ml) and triethylamine (0.038 ml, 0.27 mmol) at room temperature. The mixture was stirred for 1 h then concentrated in vacuo. The residue was purified by preparative HPLC (eluant; 0.5% 35% ammonia:9.5% methanol:90% dichloro-methane) to give a white solid identified as the title compound (30 mg, 51%).

reactant | 1-Propanesulfonyl chloride | 0.14 mmol, 0.016 ml | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | (4-aminomethyl-3-fluoro-phenyl)-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone hydrochloride | Cl.NCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=C(C=C2)C)F
reactant | triethylamine | 0.27 mmol, 0.038 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | Propane-1-sulfonic Acid 4-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-fluoro-benzylamide | 30 mg, 51% | CN1N=CC=2CN(C3=C(NC12)C=C(C=C3)C)C(=O)C3=CC(=C(CNS(=O)(=O)CCC)C=C3)F | C23H26FN5O3S
